US04321377
3.07 g. of 3-ethoxycarbonyl-6-methyl-9-(N,N-dimethylamino-carbonyl)-4-oxo-1,6,7,8-tetrahydro-4H-pyrido[1,2-a]pyrimidine are dissolved in ethanol. To the solution a 20% by W/V solution of ammonia in ethanol is added and the reaction mixture is allowed to stand in a closed vessel at room temperature for 3 days. The precipitated crystals are filtered, washed with ethanol. 1.18 g. of 3-aminocarbonyl-6-methyl-9-(N,N-dimethylamino-carbonyl)-4-oxo-1,6,7,8-tetrahydro-4H-pyrido[1,2-a]pyrimidine is obtained, melting point 220° C.

reactant | 3-ethoxycarbonyl-6-methyl-9-(N,N-dimethylamino-carbonyl)-4-oxo-1,6,7,8-tetrahydro-4H-pyrido[1,2-a]pyrimidine | C(C)OC(=O)C1=CNC=2N(C1=O)C(CCC2C(=O)N(C)C)C | C15H21N3O4
reactant | ammonia | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | 3-aminocarbonyl-6-methyl-9-(N,N-dimethylamino-carbonyl)-4-oxo-1,6,7,8-tetrahydro-4H-pyrido[1,2-a]pyrimidine | NC(=O)C1=CNC=2N(C1=O)C(CCC2C(=O)N(C)C)C | C13H18N4O3
